US05405857
Preparation of 1-(3-Chloro-2-methylphenyl)-4-(1-methylpropyl)thiosemicarbazide
1.44 g (10 mmole) of sec-butyl isothiocyanate were added to 1.56 g (10 mmole) of 3-chloro-2-methylphenyl hydrazine dissolved in 120 ml of toluene, and the mixture was refluxed for 2 hours and then evaporated. The remanence was stirred with a small amount of hexane, separated by filtration and dried.

reactant | sec-butyl isothiocyanate | 10 mmole, 1.44 g | C(C)(CC)N=C=S | C5H9NS
reactant | 3-chloro-2-methylphenyl hydrazine | 10 mmole, 1.56 g | ClC=1C(=C(C=CC1)NN)C | C7H9ClN2
solvent | toluene | 120 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(3-Chloro-2-methylphenyl)-4-(1-methylpropyl)thiosemicarbazide | ClC=1C(=C(C=CC1)NNC(=S)NC(CC)C)C | C12H18ClN3S
